US06479424B1
A 3 L autoclave was charged with wet t-butylcinnamic acid (248 g, 1.21 mol), tetrahydrofuran (1 L), and ethanol (1 L) and palladium on carbon (35 g). The reactor was shut and 90 psi of hydrogen pressure applied and the reactor held at room temperature overnight. The reaction was then transferred to a round bottom flask and concentrated to 200 mL. The formed crystals were decanted and washed with hexane to give 3-(4-t-butylphenyl)propionic acid (52.9 g after vacuum drying). A second crop from the filtrate yielded additional 3-(4-t-butylphenyl)propionic acid (65.8 g). 1HNMR (CD2Cl2, 500 MHz) δ9.85 (br s, 1H); 7.32 (d, J=8 Hz, 2H); 7.15 (d, JAB=8.5 Hz); 2.91 (t, J=8 Hz, 2H); 2.67 (t, J=8 Hz, 2H); 1.27 (s, 9H).

reactant | t-butylcinnamic acid | 1.21 mol, 248 g | C(C)(C)(C)C(C(=O)O)=CC1=CC=CC=C1 | C13H16O2
reactant | tetrahydrofuran | 1 L | O1CCCC1 | C4H8O
reactant | hydrogen | [H][H] | H2
reactant | ethanol | 1 L | C(C)O | C2H6O
catalyst | palladium on carbon | 35 g | [Pd] | Pd
product | 3-(4-t-butylphenyl)propionic acid | 52.9 g | C(C)(C)(C)C1=CC=C(C=C1)CCC(=O)O | C13H18O2
